US07923561B2
rac 3,5-Difluoro-N-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=496.3 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonyl chloride and 8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine (CAS 535935-61-6).

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonyl chloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC=1C=CC=C2CCCC(C12)N | C11H15NO
product | rac 3,5-Difluoro-N-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC=1C=C(C=C(C1)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1CCCC2=CC=CC(=C12)OC | C26H23F2N3O3S
